US04621099
Ethyl 9-(4-Methoxy-2,3,6-trimethylphenyl)-2,4,6,8-nonatetraenoate
To a suspension of sodium hydride (1.4 g, 50% dispersion in mineral oil) in 30 mL of THF stirred in an ice bath under nitrogen was added dropwise a solution of triethyl phosphonocrotonate (7.8 g, 0.03 mol) in 30 mL of THF. The resulting mixture was stirred at 0° C. for additional 1/2 hr and a solution of 5-(4-methoxy-2,3,6-trimethylphenyl)penta-2,4-dienal (4.8 g, 0.02 mol) in 15 mL of THF was added rapidly. The mixture was stirred at room temperature for 18 hrs. Brine (50 mL) was added to the mixture, followed by 200 mL of ethyl acetate. The layers were separated. The organic layer was washed with brine, dried (Na2SO4) and concentrated in vacuo to give 6.1 g of the crude product as a yellow oil. This material was used in the reaction described in Example 2 without further purification.

reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | 5-(4-methoxy-2,3,6-trimethylphenyl)penta-2,4-dienal | 0.02 mol, 4.8 g | COC1=C(C(=C(C(=C1)C)C=CC=CC=O)C)C | C15H18O2
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | Brine | 50 mL | [Cl-].[Na+].O
product | Ethyl 9-(4-Methoxy-2,3,6-trimethylphenyl)-2,4,6,8-nonatetraenoate | 6.1 g | COC1=C(C(=C(C(=C1)C)C=CC=CC=CC=CC(=O)OCC)C)C | C21H26O3
